US07582629B2
4-{[4-(Benzyloxy)phenyl]amino}-2-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.600 g, 2.001 mmol), [4-(benzyloxy)phenyl]amine (1.415 g, 6.004 mmol) and TEA (0.840 ml, 6.004 mmol) in DMF (5 ml) was heated in a microwave reactor at 140° C. for 25 mins. EtOAc was added to the mixture, and it was washed with brine, evaporated and the residue was purified by flash chromatography using a 5:1 EtOAc/petroleum ether 40-60° C. mixture as eluent to give the title compound (0.721 g, 78%). 1H NMR (500 MHz CDCl3); δ 7.42-7.33 (m, 4H), 7.22-7.17 (m, 1H), 7.15-7.09 (m, 5H), 6.65 (d, 2H), 6.61 (d, 2H), 4.96 (s, 2H), 3.79 (t, 2H), 1.92-1.84 (m, 2H), 1.54-1.44 (m, 2H), 1.01 (t, 3H); Mass Spectrum M+H+ 463.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 2.001 mmol, 0.600 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | [4-(benzyloxy)phenyl]amine | 6.004 mmol, 1.415 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N | C13H13NO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-{[4-(Benzyloxy)phenyl]amino}-2-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.721 g, 78% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCCC)=O | C26H26N2O4S
